US06774082B2
Preparation of 3,5-Dimethoxy Benzylidene-2-acetylpyridine
To a well stirred solution of NaOH (12 g, 0.3 mmole) in H2O (125 ml) and methanol (250 ml) at 0° C. was added 3,5-dimethoxy benzaldehyde (19 g, 0.11 mmole) followed by a solution of 2-acetylpyridine (14.4 g, 0.12 mmole) in MeOH. The reaction was stirred at 0° C. for 1 hour and at room temperature for 16 hours. The precipitate was filtered and recrystallized from MeOH (Yield: 18 mg, 57%). The preparation scheme is shown below:

reactant | NaOH | 0.3 mmole, 12 g | [OH-].[Na+]
reactant | 3,5-dimethoxy benzaldehyde | 0.11 mmole, 19 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | 2-acetylpyridine | 0.12 mmole, 14.4 g | C(C)(=O)C1=NC=CC=C1 | C7H7NO
solvent | H2O | 125 ml | O | H2O
solvent | methanol | 250 ml | CO | CH4O
product | 3,5-Dimethoxy Benzylidene-2-acetylpyridine | COC=1C=C(C=C2C(N=CC=C2)C(C)=O)C=C(C1)OC | C16H17NO3
